US04968676
4-Methyl-1-(4-nitrobenzyl)pyridinium chloride
A solution of 34.4 g (0.2 mole) of 4-nitrobenzyl chloride and 27.9 g (0.3 mole) of 4-methylpyridine in 200 ml of acetonitrile is refluxed for 8 hours. The solution is evaporated down to about half its volume and cooled to 0° C., and the precipitate which separates out is filtered off under suction, washed thoroughly with ether and dried under reduced pressure to give 37.6 g (71% of theory) of the title compound of melting point 220°-222° C.

reactant | 4-nitrobenzyl chloride | 0.2 mole, 34.4 g | [N+](=O)([O-])C1=CC=C(CCl)C=C1 | C7H6ClNO2
reactant | 4-methylpyridine | 0.3 mole, 27.9 g | CC1=CC=NC=C1 | C6H7N
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 4-Methyl-1-(4-nitrobenzyl)pyridinium chloride | [Cl-].CC1=CC=[N+](C=C1)CC1=CC=C(C=C1)[N+](=O)[O-] | InChI=1S/C13H13N2O2.ClH/c1-11-6-8-14(9-7-11)10-12-2-4-13(5-3-12)15(16)17;/h2-9H,10H2,1H3;1H/q+1;/p-1
